US08871767B2
2-(4-methyl-3-pivalamidophenyl)imidazo[1,2-b]pyridazin-6-ylboronic acid
A suspension of N-[5-(6-chloroimidazo[2,1-f]pyridazin-2-yl)-2-methyl-phenyl]-2,2-dimethyl-propanamide (15.43 g 0.045 mol), bis(pinacolato)diboron (17.14 g, 0.0675 mol), potassium acetate (8.833 g, 0.09 mol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (2.305 g, 3.15 mmol) in dioxane (153 mL) is heated at 90° C. for 16 hours. The reaction mixture is cooled, concentrated, added to an aqueous NaOH solution (150 mL, 3 M). The mixture is stirred for 1 hour then extracted with EtOAc (300 mL). Organic layers are washed with the NaOH solution (150 mL, 3 M). The aqueous portions are combined, washed twice with ether, and the aqueous pH is lowered to 5 with an aqueous HCl solution (6 M) to cause solid formation. This heterogeneous solution is cooled in the freezer for 2 hours, the solids are collected by filtration to give the desired product (8.56 g). The resulting aqueous solution is back extracted with EtOAc, combined with earlier organic portions and filtered through celite. The combined organic layer is dried, concentrated and taken up into an aqueous HCl solution (0.5 M). The solid product formed is collected by filtration and combined with the earlier batch, to afford a total 10.16 g of the desired title compound. LCMS (m/z)=353.5 [M+H]+, tR=2.04 min.

reactant | N-[5-(6-chloroimidazo[2,1-f]pyridazin-2-yl)-2-methyl-phenyl]-2,2-dimethyl-propanamide | 0.045 mol, 15.43 g | ClC1=NN2C(C=C1)=NC(=C2)C=2C=CC(=C(C2)NC(C(C)(C)C)=O)C | C18H19ClN4O
reactant | bis(pinacolato)diboron | 0.0675 mol, 17.14 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.09 mol, 8.833 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 153 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 3.15 mmol, 2.305 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(4-methyl-3-pivalamidophenyl)imidazo[1,2-b]pyridazin-6-ylboronic acid | 8.56 g | CC1=C(C=C(C=C1)C=1N=C2N(N=C(C=C2)B(O)O)C1)NC(C(C)(C)C)=O | C18H21BN4O3
